US07465815B2
6-Methyl-4-indanol
Using 6-methyl-2,3-dihydro-1H-inden-4-yl acetate synthesized in Reference Example 174, the title compound was synthesized in the same manner as in Reference Example 175. Yield 81%. Melting point: 82-83° C. (hexane-ethyl acetate).

reactant | 6-methyl-2,3-dihydro-1H-inden-4-yl acetate | C(C)(=O)OC1=C2CCCC2=CC(=C1)C | C12H14O2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 6-Methyl-4-indanol | Yield 81% | CC=1C=C(C=2CCCC2C1)O | C10H12O
